US06294668B1
(E)-(6R,7R)-7-[2-[2-(3,4-Dihydroxy-phenyl)-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-ylsulfanyl]-acetylamino]-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
(E)-(6R,7R)-7-(2-bromo-acetylamino)-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (see ex. C34a) (200.0 mg, 0.38 mmol) was dissolved in 4 ml N,N-dimethylformamide and 4-[7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl]pyrocatechol sodium salt (124.0 mg, 0.42 mmol) was added. After 5 h the reaction mixture was poured on diethyl ether and the suspension was filtered. The solid material was digerated with 10 ml ethyl acetate:water (1:1) for 1 h, filtered and dried in high vacuum.

reactant | (E)-(6R,7R)-7-(2-bromo-acetylamino)-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.38 mmol, 200.0 mg | BrCC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=C(C=C1)O)=O | C21H20BrN3O6S
reactant | 4-[7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl]pyrocatechol sodium salt | 0.42 mmol, 124.0 mg | [Na].SC1=CC(=NC=2N1N=C(N2)C=2C=C(C(O)=CC2)O)C
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-7-[2-[2-(3,4-Dihydroxy-phenyl)-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-ylsulfanyl]-acetylamino]-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | OC=1C=C(C=CC1O)C1=NN2C(N=C(C=C2SCC(=O)N[C@H]2[C@H]3SCC(=C(N3C2=O)C(=O)O)/C=C\2/C(N(CC2)CC2=CC=C(C=C2)O)=O)C)=N1 | C33H29N7O8S2
